2153-01-19 06:34:00 Physician Resident Progress Note
CCU Intern Progress Note
   24 Hour Events:
   Allergies:
   Feldene (Oral) (Piroxicam)
   Rash;
   Darvocet-N 50 (Oral) (Propoxyphene/Acetaminophen)
   Nausea/Vomiting
   Tramadol
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2153-1-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-1-19**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2153-1-19**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 64 (56 - 75) bpm
   BP: 121/42(62) {108/36(55) - 128/54(69)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,565 mL
                                                                     30 mL
   PO:
                                                                    690 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    875 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                     22 mL
   Urine:
                                                                    180 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,385 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   8.5 g/dL
   111 mg/dL
   4.4 mg/dL
   25 mEq/L
   5.0 mEq/L
   88 mg/dL
   86 mEq/L
   125 mEq/L
   24.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2153-1-16**]  08:53 PM
                             [**2153-1-16**]  08:57 PM
                             [**2153-1-17**]  06:07 AM
                             [**2153-1-17**]  08:58 PM
                             [**2153-1-18**]  06:33 AM
                             [**2153-1-19**]  04:07 AM
   WBC
   8.3
   6.6
   5.8
   5.6
   Hct
   28.5
   25.6
   24.4
   24.6
   Plt
   162
   139
   151
   176
   Cr
   2.0
   2.4
   3.3
   3.4
   4.4
   TropT
   0.77
   0.89
   0.80
   Glucose
   137
   90
   129
   99
   111
   Other labs: PT / PTT / INR:15.2/42.1/1.3, CK / CKMB /
   Troponin-T:33//0.80, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CHRONIC PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2153-1-16**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: